* C:\Users\otavi\Git\circuitos_eletronicos_ii\PROJETO\circuito_3.asc
Vd Vdd 0 4
R1 Vdd Vout1 1k
M1 Vout1 g1 s2 0 NMOS l=0.25u w=40u
R2 Vdd d2 1k
M2 d2 N003 s2 0 NMOS l=0.25u w=40u
M3 s2 g3 0 0 NMOS l=0.25u w=40u
Vb3 g3 0 4
V1 N002 0
V2 N001 0 SINE(0 10m 10k) Rser=10
L1 0 N001 10
L2 N002 g1 10
L3 N003 N002 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\otavi\Documents\LTspiceXVII\lib\cmp\standard.mos
.inc Generic_025_SPICE_Models_Level2.lib
;.dc V1 0 5 0.01
K1 L1 L2 L3 1.
.tran 0 100u 0
.backanno
.end
